* C:\Users\leone\Documents\repos\C2\reguladorB.asc
Q1 N007 Vref N011 0 TR1
Q2 N010 Vf N011 0 TR1
Q3 N008 N010 N001 0 2N2222
Q5 N011 N020 N027 0 BC547B
Q6 N020 N020 N026 0 BC547B
R1 Vreg N020 1k
R2 Vreg N004 0.1k
R3 Vreg N003 0.1k
RL N002 0 R=10*(1-time)
Q7 N001 N008 Vreg 0 tip42C
Q8 N010 N007 N004 0 BC557B
Q9 N007 N007 N003 0 BC557B
V1 Vreg 0 6.35
V2 Vref 0 1.2
R7 N001 N005 2.2k
R8 N002 N009 2.2k
R9 N005 0 22k
R10 N009 Vs 22k
R11 N021 Vref 2.2k
R12 0 N021 910
R13 N016 N022 1.1k
R14 Vref-c N023 1k
R15 N016 N017 1k
R16 N015 Vf 1k
R17 0 N015 11k
R20 N014 Vref-c 2.2k
R22 N013 N012 32k
R23 N018 0 47
R24 N023 0 1k
R21 N013 N014 82k
R200 Vs N006 2.2k
R19 0 N006 82k
R4 N001 N002 0.1
Q4 N010 N012 N018 0 2N2222
R18 N026 0 100
R25 N027 0 100
XU6 N016 N023 5v 0 Vref-c LM324
XU2 N005 N009 5v 0 Vs LM324
XU1 N006 N014 5v 0 N013 LM324
XU3 N015 N017 5v 0 N017 LM324
XU4 N021 N022 5v 0 N022 LM324
V3 5v 0 5
R5 N002 Vf 3.3k
R6 Vf N019 2.2k
R26 Vf N019 2.4k
M1 N019 N024 0 0 BSZ100N03LS
R28 N025 N024 1k
V4 N025 0 0
R27 N019 0 1.2k
.model NPN NPN
.model PNP PNP
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.mos
;step param RE 1k 1.5k 100
;param RL=6
.tran 0.999999
.include librerias/bd140.lib
.include librerias/complex_discretes.lib
* .op
* REFERENCIA
.inc opamp.sub
.lib librerias/LM324.ti.lib
* LIBRERIAS
* SIMULACIONES
.backanno
.end
